US06211215B1
In substantially the same manner as in Working Example 8, benzimidazole was allowed to react with 4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl methanesulfonate to give 1-[4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl]benzimidazole. The yield was 36%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 148-149° C.

reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl methanesulfonate | CS(=O)(=O)OCCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C23H25NO5S
product | 1-[4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl]benzimidazole | yield was 36% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C=NC2=C1C=CC=C2 | C29H27N3O2
